US08420631B2
3-tert-Butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (279 mg, 0.77 mmoles) in dichloromethane (5 mL) and then add di-tert-butyl-dicarbonate (168 mg, 0.77 mmoles). Stir at room temperature overnight and then concentrate in vacuo to obtain the desired intermediate that was suitable for use without further purification. MS (ES+) m/z=483.2 (M+Na)+.

reactant | 7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.77 mmoles, 279 mg | ClC1=C(C2=C(CCNCC2)C=C1)C=CCCCNC(=O)C1CCCC1 | C21H29ClN2O
reactant | di-tert-butyl-dicarbonate | 0.77 mmoles, 168 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-tert-Butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C=CCCCNC(=O)C2CCCC2 | C26H37ClN2O3
